US04261992
A solution of 5-amino-3-methoxymethylisoquinoline (22.9 g) in pyridine (80 cc) is added dropwise, whilst stirring and at a temperature of about -10° C., to a solution of triethylamine (17 cc) and carbon disulphide (55 cc) in pyridine (80 cc). After 4 hours at -10° C., a solution of dicyclohexylcarbodiimide (25.2 g) in pyridine (80 cc) is added dropwise. Stirring is maintained for 3 hours at a temperature which changes from -10° to 20° C., and then for 20 hours at a temperature of about 20° C. The mixture is evaporated to dryness at 60° C. under reduced pressure (20 mm Hg), the residue is taken up in methylene chloride (800 cc), and insoluble material is removed by filtration and the filtrate is evaporated to dryness at 40° C. under reduced pressure (40 mm Hg). The residue is taken up in diisopropyl ether (1 liter; an insoluble material is removed by filtration and the filtrate is evaporated to dryness at 40° C. under reduced pressure (20 mm Hg). 5-Isothiocyanato-3-methoxymethylisoquinoline (18.5 g), m.p. 88° C., is obtained.

reactant | 5-amino-3-methoxymethylisoquinoline | 22.9 g | NC1=C2C=C(N=CC2=CC=C1)COC | C11H12N2O
reactant | triethylamine | 17 cc | C(C)N(CC)CC | C6H15N
reactant | carbon disulphide | 55 cc | C(=S)=S | CS2
reactant | dicyclohexylcarbodiimide | 25.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 80 cc | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 80 cc | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 80 cc | N1=CC=CC=C1 | C5H5N
product | 5-Isothiocyanato-3-methoxymethylisoquinoline | 18.5 g | N(=C=S)C1=C2C=C(N=CC2=CC=C1)COC | C12H10N2OS
